### PR TITLE
[Merged by Bors] - feat: add `Valued.tendsto_zero_pow_of_le_neg_one`

### PR DESCRIPTION
**Pull request by smmercuri**
If `K` is a valued ring taking values in the multiplicative integers wth a zero adjoined, then `Valued.tendsto_zero_pow_of_le_neg_one` is the result that `x ^ n` tends to zero in this ring if `v x` is at most `-1` valued. 

---
- [x] depends on: #21160
- [x] depends on: #22055
- [x] depends on: #24977
- [x] depends on: #26761

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 1]
```diff
@@ -258,6 +259,13 @@ theorem intValuation_singleton {r : R} (hr : r ≠ 0) (hv : v.asIdeal = Ideal.sp
     ofAdd_neg, WithZero.coe_inv]
   apply v.associates_irreducible
 
+theorem intValuation_uniformizer_ne_zero {v : HeightOneSpectrum R} {π : R}
+    (hπ : v.intValuation π = Multiplicative.ofAdd (-1 : ℤ)) :
+    π ≠ 0 := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:264]:
```suggestion
theorem uniformizer_ne_zero_of_intValuation {v : HeightOneSpectrum R} {π : R}
    (hπ : v.intValuation π = Multiplicative.ofAdd (-1 : ℤ)) :
    π ≠ 0 := by
```
Also this lemma is true more generally as
```suggestion
theorem uniformizer_ne_zero_of_intValuation {v : HeightOneSpectrum R} {π : R}
    (hπ : v.intValuation π ≠ 0) :
    π ≠ 0 := by
```
right? at which point it's a contraposition away from `intValuation_zero` (which doesn't exist, even though `intValuationDef_zero`?)

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 2]
```diff
@@ -538,4 +546,47 @@ lemma adicCompletion.mul_nonZeroDivisor_mem_adicCompletionIntegers (v : HeightOn
...
+  let ⟨a, ha⟩ := exists_pow_lt_of_le_neg_one (le_of_eq (valued_eq_intValuationDef K _ π ▸ hπ)) γ
+  use ⟨algebraMap _ _ π ^ a,
+    mem_nonZeroDivisors_of_ne_zero (pow_ne_zero _ <| v.intValuation_uniformizer_ne_zero hπ)⟩
+  simp [ha]
+
+open scoped Classical in
+/-- Given a collection of values `γ v` at primes `v `, we can find a global
+non-zero integer that has valuation less than `γ v` for a finite set of primes `v`. -/
+theorem AdicCompletion.exists_nonZeroDivisor_finset_valued_lt
+    (S : Set (HeightOneSpectrum R))
```
Comment (YaelDillies) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:569]:
```suggestion
    {S : Set (HeightOneSpectrum R)}
```

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 3]
```diff
@@ -538,4 +546,47 @@ lemma adicCompletion.mul_nonZeroDivisor_mem_adicCompletionIntegers (v : HeightOn
...
+    (hS : Set.Finite S)
```
Comment (YaelDillies) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:570]:
```suggestion
    (hS : S.Finite)
```

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 4]
```diff
@@ -538,4 +546,47 @@ lemma adicCompletion.mul_nonZeroDivisor_mem_adicCompletionIntegers (v : HeightOn
...
+    (γ : (v : HeightOneSpectrum R) → ℤₘ₀ˣ) :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:571]:
```suggestion
    (γ : HeightOneSpectrum R → ℤₘ₀ˣ) :
```

**Review by YaelDillies — COMMENTED** [review]
Why are you adding more API about `intValuationDef` instead of `intValuation`? In fact, why do we even have `intValuationDef`?

**Comment by smmercuri** [comment]
Sorry I've been a bit behind with these PRs! Since the refactor of the finite adele ring, a bunch of results here are no longer needed, so I've removed them.

**Comment by smmercuri** [comment]
All valid points on `intValuation` vs. `intValuationDef`, I think the later is just the function data and the former is the `Valuation` term, so I should indeed add results only for `intValuation`. But they are all gone now anyway

**Review by YaelDillies — COMMENTED** [review]
Wouldn't your life be a bit easier if you introduced the equiv `ℤₘ₀ˣ ≃ ℤ`?

**Comment by smmercuri** [comment]
> Wouldn't your life be a bit easier if you introduced the equiv `ℤₘ₀ˣ ≃ ℤ`?

I think this kind of already exists (and is used in this PR) through the composition of `WithZero.unitsWithZeroEquiv` and `Multiplicative.toAdd`. Or is your point that we should shortcut this composition with a new definition?

**Comment by YaelDillies** [comment]
Yes, my point is that mathematically you are not using the intermediate type `Multiplicative ℤ` at all. Therefore you should have a function that bypasses it.

**Comment by smmercuri** [comment]
Yeah that does make it quite a bit nicer, thanks!

File: Mathlib/Algebra/GroupWithZero/Int.lean [hunk 5]
```diff
@@ -4,14 +4,14 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: María Inés de Frutos-Fernández, Filippo A. E. Nuccio
 -/
 import Mathlib.Algebra.Group.Int.TypeTags
-import Mathlib.Algebra.GroupWithZero.WithZero
+import Mathlib.Algebra.Order.GroupWithZero.Canonical
+import Mathlib.Algebra.Ring.Int.Defs
```
[the remark this answers is not in the document]
Comment (smmercuri) [reply Mathlib/Algebra/GroupWithZero/Int.lean:8]: I see! but that import is required in l.33 to apply `nsmul_one` inside the `simp`, which itself only requires `AddMonoidWithOne ℤ`, however this instance is derived from `Ring ℤ`. What's the best approach here? Should I leave the RHS of `ofAdd_neg_one_pow` as `ofAdd (-(n • 1) : ℤ)`?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Int.lean]: I just pushed a fix: The trick is to make duplicates of the lemmas about concrete types that can be proved much earlier than their abstract counterpart

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/GroupWithZero/Int.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (smmercuri) [reply Mathlib/Algebra/GroupWithZero/Int.lean]: Oh nice, thanks! Maybe I've misunderstood, but it's not clear we can repeat that trick for the `Algebra.Order` import since `ofAdd_neg_one_lt` requires the `Preorder` instance on `ℤₘ₀`. Maybe I should move that result to a corresponding file in the `Order/GroupWithZero` subdir instead?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Int.lean]: Yes, moving the result is fine by me!

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 6]
```diff
@@ -389,6 +388,21 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
 instance instLinearOrderedCommGroupWithZero [CommGroup α] [LinearOrder α] [IsOrderedMonoid α] :
     LinearOrderedCommGroupWithZero (WithZero α) where
 
+theorem unitsMultiplicativeEquiv_le {α : Type*} [AddGroup α] [Preorder α]
+    {γ : (WithZero (Multiplicative α))ˣ} {u : Multiplicative α} :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:392]: The goal is to never mention `Multiplicative Int`, so this should take in 
```suggestion
    {γ : (WithZero (Multiplicative α))ˣ} {u : α} :
```

File: Mathlib/Algebra/Order/GroupWithZero/Int.lean [hunk 7]
```diff
@@ -0,0 +1,25 @@
...
+
+/-!
+# Lemmas about `ℤₘ₀`.
+-/
+
+namespace WithZero
+
+open Multiplicative
+
+theorem ofAdd_neg_one_lt : ofAdd (-1 : ℤ) < (1 : ℤₘ₀) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Int.lean:17]: Can you state this using the new equiv?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 8]
```diff
@@ -298,4 +298,14 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
   natCast_zero := rfl
   natCast_succ n := by cases n <;> simp
 
+/-- The equivalence between the units of `WithZero (Multiplicative α)` and `α`. -/
+def unitsMultiplicativeEquiv {α : Type*} [AddGroup α] :
+    (WithZero (Multiplicative α))ˣ ≃ α :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:303]: Equivs, as opposed to lemmas, tend to be more useful with the simple side on the LHS, because that means they can easily be applied. And furthermore you could call it `expEquiv` or some similarly evocative name

Comment (smmercuri) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:303]: I think in this case we should stick with the way it is because the main use case is to turn values in a `Valued R ℤₘ₀` ring to `ℤ`, for which the current formulation is easier to use, and it also aligns with the various other equivs in this file. Although the name could definitely be improved!

File: Mathlib/Algebra/Order/GroupWithZero/Int.lean (hunk 7 above)
Comment (smmercuri) [reply Mathlib/Algebra/Order/GroupWithZero/Int.lean]: Yes!

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 6 above)
Comment (smmercuri) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: Fixed

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:303]: Maybe `WithZero.log`, then?

Comment (smmercuri) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Yeah that's nice!

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 9]
```diff
@@ -299,21 +299,26 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
-def unitsMultiplicativeEquiv {α : Type*} [AddGroup α] :
+def log {α : Type*} [AddGroup α] :
     (WithZero (Multiplicative α))ˣ ≃ α :=
   unitsWithZeroEquiv.toEquiv.trans Multiplicative.toAdd
 
 @[simp]
-theorem unitsMultiplicativeEquiv_one {α : Type*} [AddGroup α] :
-    unitsMultiplicativeEquiv (1 : (WithZero (Multiplicative α))ˣ) = 0 := rfl
+theorem log_one {α : Type*} [AddGroup α] :
+    log (1 : (WithZero (Multiplicative α))ˣ) = 0 :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:308]:
```suggestion
    log 1 = (0 : α) :=
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 10]
```diff
@@ -299,21 +299,26 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+  rfl
 
 @[simp]
-theorem unitsMultiplicativeEquiv_symm_zero {α : Type*} [AddGroup α] :
-    unitsMultiplicativeEquiv.symm (0 : α)  = 1 := by
-  simp [unitsMultiplicativeEquiv]
+theorem log_symm_zero {α : Type*} [AddGroup α] :
+    log.symm (0 : α)  = 1 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:313]:
```suggestion
    log.symm (0 : α) = 1 := by
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 11]
```diff
@@ -389,22 +389,21 @@ instance instLinearOrderedCommGroupWithZero [CommGroup α] [LinearOrder α] [IsO
     LinearOrderedCommGroupWithZero (WithZero α) where
 
 open Multiplicative in
-theorem unitsMultiplicativeEquiv_le {α : Type*} [AddGroup α] [Preorder α]
+theorem log_le {α : Type*} [AddGroup α] [Preorder α]
     {γ : (WithZero (Multiplicative α))ˣ} {u : α} :
-    unitsMultiplicativeEquiv γ ≤ u ↔ γ.val ≤ unitsWithZeroEquiv.symm (ofAdd u) := by
-  simp [unitsMultiplicativeEquiv_apply, ← coe_unitsWithZeroEquiv_eq_units_val]
+    log γ ≤ u ↔ γ.val ≤ log.symm u := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:394]: Okay I must say it now *really* feels like you should have `WithZero.exp` as well, so that this becomes
```suggestion
    log γ ≤ u ↔ γ.val ≤ exp u := by
```

Comment (smmercuri) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: Yeah that makes sense, analogous to the existence of both `toAdd` and `ofAdd`. Added!

File: Mathlib/Algebra/Order/GroupWithZero/Int.lean [hunk 12]
```diff
@@ -14,13 +14,13 @@ namespace WithZeroMulInt
 
 open Multiplicative WithZero
 
-theorem ofAdd_neg_one_lt : ofAdd (-1 : ℤ) < (log.symm (0 : ℤ)).val := by
-  rw [log_symm_zero, Units.val_one, ← coe_one, coe_lt_coe, ← ofAdd_zero, ofAdd_lt]
+theorem ofAdd_neg_one_lt : ofAdd (-1 : ℤ) < (exp (0 : ℤ)).val := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Int.lean:17]: The new names are great, because they make the mathematical content much more readable. Eg am I correct that this is what you meant?
```suggestion
theorem exp_neg_one_lt_one : exp (-1 : ℤ) < 1 := by
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 13]
```diff
@@ -303,22 +303,37 @@ def log {α : Type*} [AddGroup α] :
     (WithZero (Multiplicative α))ˣ ≃ α :=
   unitsWithZeroEquiv.toEquiv.trans Multiplicative.toAdd
 
+/-- The equivalence between `α` and the units of `WithZero (Multiplicative α)`. -/
+def exp {α : Type*} [AddGroup α] :
+    α ≃ (WithZero (Multiplicative α))ˣ :=
+  log.symm
+
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:310]: I would do
```suggestion
  Multiplicative.toAdd.symm.trans unitsWithZeroEquiv.toEquiv

@[simp] lemma log_symm : (log (α := α)).symm = exp := rfl
@[simp] lemma exp_symm : (exp (α := α)).symm = log := rfl

```

File: Mathlib/Algebra/Group/Int/Defs.lean [hunk 14]
```diff
@@ -64,6 +64,9 @@ instance instAddGroup         : AddGroup ℤ         := by infer_instance
 instance instAddCommSemigroup : AddCommSemigroup ℤ := by infer_instance
 instance instAddSemigroup     : AddSemigroup ℤ     := by infer_instance
 
+-- We want to use this lemma earlier than `_root_.nsmul_eq_mul`
+@[simp high] protected lemma nsmul_eq_mul (n : ℕ) (a : ℤ) : n • a = n * a := rfl
```
Comment (smmercuri) [inline Mathlib/Algebra/Group/Int/Defs.lean:68]: I think this is not needed anymore, shall we remove or keep it?

File: Mathlib/Algebra/Order/GroupWithZero/Int.lean (hunk 12 above)
Comment (smmercuri) [reply Mathlib/Algebra/Order/GroupWithZero/Int.lean]: Yep! I've also tinkered further and added `exp_val` and corresponding `log` result, which have shortened the proof of the main result, and made this file unnecessary

Comment (smmercuri) [reply Mathlib/Algebra/Order/GroupWithZero/Int.lean]: Actually no it was `WithZeroMulInt.exp_pow` that helps, `exp_val` was unnecessary!

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 15]
```diff
@@ -298,4 +298,31 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
   natCast_zero := rfl
   natCast_succ n := by cases n <;> simp
 
+variable {α : Type*} [AddGroup α]
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:301]:
```suggestion
variable {G : Type*} [AddGroup G]
```

File: Mathlib/Algebra/Group/Int/Defs.lean (hunk 14 above)
Comment (smmercuri) [reply Mathlib/Algebra/Group/Int/Defs.lean:68]: Nevermind, it is still needed

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 16]
```diff
@@ -389,6 +388,18 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
 instance instLinearOrderedCommGroupWithZero [CommGroup α] [LinearOrder α] [IsOrderedMonoid α] :
     LinearOrderedCommGroupWithZero (WithZero α) where
 
+theorem log_le {α : Type*} [AddGroup α] [Preorder α]
+    {γ : (WithZero (Multiplicative α))ˣ} {u : α} :
+    log γ ≤ u ↔ γ.val ≤ exp u := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:393]: This works too, assuming you import `Mathlib.Algebra.Order.Monoid.Units`,
```suggestion
    log γ ≤ u ↔ γ ≤ exp u := by
```
but maybe you don't want to do that because `WithZero (Multiplicative α)` is the type you really care about, rather than the units of that?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 17]
```diff
@@ -389,6 +388,18 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
 instance instLinearOrderedCommGroupWithZero [CommGroup α] [LinearOrder α] [IsOrderedMonoid α] :
     LinearOrderedCommGroupWithZero (WithZero α) where
 
+theorem log_le {α : Type*} [AddGroup α] [Preorder α]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:391]:
```suggestion
theorem log_le_iff_le_exp {α : Type*} [AddGroup α] [Preorder α]
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 18]
```diff
@@ -389,6 +388,18 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
...
+    {γ : (WithZero (Multiplicative α))ˣ} {u : α} :
+    log γ ≤ u ↔ γ.val ≤ exp u := by
+  simp only [log_apply, ← coe_unitsWithZeroEquiv_eq_units_val, coe_le_coe]
+  exact ge_iff_le
+
+theorem lt_log {α : Type*} [AddGroup α] [Preorder α]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:397]:
```suggestion
theorem lt_log_iff_exp_lt {α : Type*} [AddGroup α] [Preorder α]
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 19]
```diff
@@ -389,6 +388,18 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
...
+    {γ : α} {u : (WithZero (Multiplicative α))ˣ} :
+    γ < log u ↔ exp γ < u.val := by
+  simp only [log_apply, ← coe_unitsWithZeroEquiv_eq_units_val, coe_lt_coe]
+  exact gt_iff_lt
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:401]:
```suggestion
    γ < log u ↔ exp γ < u.val := lt_iff_lt_of_le_iff_le log_le_iff_le_exp
```

File: Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean [hunk 20]
```diff
@@ -0,0 +1,45 @@
...
+open Multiplicative WithZero
+
+open scoped Topology
+
+namespace Valued.WithZeroMulInt
+
+variable {R : Type*} [Ring R] [Valued R ℤₘ₀]
+
+lemma exp_pow (a : ℤ) (b : ℕ) : exp a ^ b = exp (b * a) := by
+  simp only [← Int.nsmul_eq_mul, exp_apply, ofAdd_nsmul, map_pow]
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean:26]: This should be earlier

**Review by YaelDillies — COMMENTED** [review]
You're missing a lot of order lemmas about `log` and `exp` still, eg that they are order isomorphisms. And there are also questions about their domains and codomains (it's probably better to have them as maps `exp : G → WithZero (Multiplicative G)` and `log : WithZero (Multiplicative G) → G`).

In fact, the PR has now diverged significantly from its original purpose, so I suggest we split it. Since `log` and `exp` were my idea, I am happy to write that new PR about them.

What do you think?

**Comment by smmercuri** [comment]
> You're missing a lot of order lemmas about `log` and `exp` still, eg that they are order isomorphisms. And there are also questions about their domains and codomains (it's probably better to have them as maps `exp : G → WithZero (Multiplicative G)` and `log : WithZero (Multiplicative G) → G`).
> 
> In fact, the PR has now diverged significantly from its original purpose, so I suggest we split it. Since `log` and `exp` were my idea, I am happy to write that new PR about them.
> 
> What do you think?

OK sure, that sounds good! Feel free to PR that

**Comment by YaelDillies** [comment]
Okay great! I will do this today or tomorrow

**Comment by YaelDillies** [comment]
See #24977

**Comment by YaelDillies** [comment]
I've rebased post #24977 being merged. I think this looks great now! I'll let someone else decide (@faenuccio ?) on whether `Valued.WithZeroMulInt` is the correct namespace for these two results.

maintainer merge

**Comment by smmercuri** [comment]
Great, thanks for your work on the `log`/`exp` PR!

**Comment by faenuccio** [comment]
I would personally suggest to leave it in the `Valued` namespace.

**Comment by riccardobrasca** [comment]
I've no personal opinion about the namespace, but LGTM, thanks!

bors d+

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
